** sch_path: /foss/designs/SSDOR_w_startup_1V_ihp/Ib_4u/CTAT_PTAT/tb_CTAT_PTAT.sch
**.subckt tb_CTAT_PTAT
V1 VDD GND 0.8
XM1 Vout Vout GND GND sg13_lv_nmos w=1u l=0.5u ng=1 m=1
x1 VDD net1 GND CTAT_PTAT
V2 Vout GND 0.6
Vmeas net1 Vout 0
.save i(vmeas)
**** begin user architecture code


** IHP models
.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ




.param temp=27
.control
save all
tran 1000p 50u
plot i(Vmeas)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  SSDOR_w_startup_1V_ihp/Ib_4u/CTAT_PTAT/CTAT_PTAT.sym # of pins=3
** sym_path: /foss/designs/SSDOR_w_startup_1V_ihp/Ib_4u/CTAT_PTAT/CTAT_PTAT.sym
** sch_path: /foss/designs/SSDOR_w_startup_1V_ihp/Ib_4u/CTAT_PTAT/CTAT_PTAT.sch
.subckt CTAT_PTAT VDD Ibias GND
*.iopin VDD
*.iopin GND
*.iopin Ibias
XM2 net9 net5 VDD VDD sg13_lv_pmos w=5u l=2u ng=1 m=1
XM3 net12 net5 VDD VDD sg13_lv_pmos w=5u l=2u ng=1 m=1
XM4 Ibias net5 VDD VDD sg13_lv_pmos w=5u l=2 ng=1 m=1
XM5 Ibias net1 VDD VDD sg13_lv_pmos w=5u l=2u ng=1 m=1
XM6 net14 net1 VDD VDD sg13_lv_pmos w=5u l=2u ng=1 m=1
XM7 GND GND net2 VDD sg13_lv_pmos w=2u l=0.5u ng=1 m=30
XM8 net2 GND net14 VDD sg13_lv_pmos w=2u l=0.5u ng=1 m=1
XM9 net13 net1 VDD VDD sg13_lv_pmos w=5u l=2u ng=1 m=1
XM12 net1 net3 net4 net4 sg13_lv_nmos w=10u l=1u ng=1 m=1
XM13 net3 net4 GND GND sg13_lv_nmos w=10u l=1u ng=1 m=1
XM16 net9 net9 net8 GND sg13_lv_nmos w=2u l=0.5u ng=1 m=30
XM17 net8 net9 net10 GND sg13_lv_nmos w=2u l=0.5u ng=1 m=1
x1 VDD net1 net2 net13 GND Ib_4u_opamp
C1 VDD net3 1p m=1
XM10 net5 net6 net7 net7 sg13_lv_nmos w=10u l=1u ng=1 m=1
XM11 net6 net7 GND GND sg13_lv_nmos w=10u l=1u ng=1 m=1
C2 VDD net6 1p m=1
x2 VDD net5 net8 net12 GND Ib_4u_opamp
XM14 net11 net5 VDD VDD sg13_lv_pmos w=5u l=2u ng=1 m=1
XM1 net11 net11 net10 GND sg13_lv_nmos w=2u l=0.5u ng=1 m=30
XM15 net10 net11 GND GND sg13_lv_nmos w=2u l=0.5u ng=1 m=1
R1 net12 GND 500k m=1
R2 net13 GND 500k m=1
.ends


* expanding   symbol:  SSDOR_w_startup_1V_ihp/Ib_4u/Ib_4u_opamp/Ib_4u_opamp.sym # of pins=5
** sym_path: /foss/designs/SSDOR_w_startup_1V_ihp/Ib_4u/Ib_4u_opamp/Ib_4u_opamp.sym
** sch_path: /foss/designs/SSDOR_w_startup_1V_ihp/Ib_4u/Ib_4u_opamp/Ib_4u_opamp.sch
.subckt Ib_4u_opamp VDD Vout V- V+ GND
*.iopin VDD
*.ipin V+
*.ipin V-
*.iopin GND
*.opin Vout
XM1 net1 V+ GND GND sg13_lv_nmos w=7.5u l=0.18u ng=2 m=1
XM2 Vout V- GND GND sg13_lv_nmos w=7.5u l=0.18u ng=2 m=1
XM3 Vout net1 VDD VDD sg13_lv_pmos w=5u l=0.8u ng=1 m=1
XM4 net1 net1 VDD VDD sg13_lv_pmos w=5u l=0.8u ng=1 m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
